US04292234
Bis(1-Chloro-1-Methyl-1-Sila-3-Cyclopentyl) Disulfide
To a 0.5 liter 3-neck round bottom glass flask fitted with a magnetic stirrer, dropping funnel and a nitrogen source was added 33.4 grams (0.20 moles) of 1-chloro-1-methyl-3-mercaptosilacyclopentane and 0.025 liters of n-heptane. Sulfuryl chloride, 13.5 grams (0.10 moles) was rapidly added at 25 C. to the stirred mixture within 3 minutes. After an additional stirring for 42 hours at ambient room temperature, the solvent was removed at about 50 -75 C./20-50 mm and nitrogen bubbled through the viscous residue for 16-20 hours. GLC analysis of the residue (27 grams) indicated 90.2 wt.% of the desired disulfide and 9.8 wt.% of the mercaptan starting material. Based on the purity of the residue, a 74 mole % yield was obtained.

reactant | 1-chloro-1-methyl-3-mercaptosilacyclopentane | 0.20 moles, 33.4 grams | Cl[Si]1(CC(CC1)S)C | C5H11ClSSi
reactant | Sulfuryl chloride | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | n-heptane | 0.025 liters | CCCCCCC | C7H16
product | Bis(1-Chloro-1-Methyl-1-Sila-3-Cyclopentyl) Disulfide | Cl[Si]1(CC(CC1)SSC1C[Si](CC1)(C)Cl)C | C10H20Cl2S2Si2
